US07507740B2
Production of 2-({2-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}sulfinyl)ethanol
To a solution of 2-({2-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}thio)ethanol (100 mg) in dichloromethane (10 mL) was added dropwise a 70% solution of 3-chloroperbenzoic acid (58 mg) in dichloromethane (5.0 mL) at −78° C. The mixture was stirred at −78° C. for 1 hr, and aqueous sodium thiosulfate solution was added. After stirring at room temperature for 0.5 hr, the mixture was extracted with ethyl acetate. The organic layer washed with saturated brine and dried over magnesium sulfate. After concentration under reduced pressure, the residue was separated and purified by silica gel column chromatography (eluent, ethyl acetate→ethyl acetate:methanol=4:1) to give the title compound (87 mg) as colorless crystals.

reactant | 2-({2-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}thio)ethanol | 100 mg | ClC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NC=1C2=C(N=CN1)C=CN2CCSCCO | C23H20ClF3N4O2S
reactant | 3-chloroperbenzoic acid | 58 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
product | 2-({2-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}sulfinyl)ethanol | 87 mg | ClC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NC=1C2=C(N=CN1)C=CN2CCS(=O)CCO | C23H20ClF3N4O3S
